* C:\Users\drala\Documents\Radio_tools\SARK100\Analysis\LtSpice\SARK100_Full_Bridge_Manual_GUI_Runs\Test_circuit.asc
* Generated by LTspice 24.1.6 for Windows.
X§X1 N002 0 N001 f r z a SARK100Bridge
R1 N002 0 {Rload}
V1 N001 0 SINE(0 {Vsrc} {freq})

* block symbol definitions
.subckt SARK100Bridge Load GND Drive Vf Vr Vz Va
D2 Drive N001 HSMS-2805
C2 N001 GND 100p
X§X1 N001 Vf BridgeAmp
X§X2 N002 Vr BridgeAmp
X§X3 N005 Vz BridgeAmp
X§X4 N003 Va BridgeAmp
R1 N004 Drive 50
R3 Load Drive 50
R5 GND N004 50
D1 Drive N003 HSMS-2805
D3 Load N005 HSMS-2805
D4 Load N002 HSMS-2805
C1 N005 GND 100p
C4 N003 Load 100p
C5 N002 N004 100p
C3 Load GND 10p
L1 N006 GND 270µ
R2 Load N006 2500
R4 Load GND 2250
.MODEL HSMS-2805 D(IS=30P RS=30 N=1.08 BV=75 IBV=100U CJO=1.6P M=0.5 EG=0.69 VJ=0.65 XTI=2)
.ends SARK100Bridge

.subckt BridgeAmp In Vx
R1 N003 In 47k
R2 N001 0 220k
D1 Vx N001 HSMS-2805
R3 N003 0 1000k
C1 N003 0 10n
X§U1 N003 N001 N002 0 Vx level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V1 N002 0 5
.MODEL HSMS-2805 D(IS=30P RS=30 N=1.08 BV=75 IBV=100U CJO=1.6P M=0.5 EG=0.69 VJ=0.65 XTI=2)
.ends BridgeAmp

.model D D
.lib C:\Users\drala\AppData\Local\LTspice\lib\cmp\standard.dio
.step param Rload list 5 10 20 25 32 50 75 100 121 150 220 470 1000
.step param Vsrc list 0.2 0.5 0.9 1.3 1.6 2.0
.param freq 1000000
.tran 0 3m
.meas TRAN Vf AVG V(f) FROM 2m TO 3m
.meas TRAN Vr AVG V(r) FROM 2m TO 3m
.meas TRAN Vz AVG V(z) FROM 2m TO 3m
.meas TRAN Va AVG V(a) FROM 2m TO 3m
.lib UniversalOpAmp1.lib
.backanno
.end
